US08648068B2
99.4 4-[4-Fluoro-2-((R)-1-methanesulfonyl-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to example 1.4 from 4-[4-fluoro-2-((R)-1-methanesulfonyl-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and Ammonia in Methanol.

reactant | 4-[4-fluoro-2-((R)-1-methanesulfonyl-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@H]2CN(CC2)S(=O)(=O)C | C19H19FN4O5S2
reactant | Ammonia | N | H3N
solvent | Methanol | CO | CH4O
product | 4-[4-Fluoro-2-((R)-1-methanesulfonyl-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@H]2CN(CC2)S(=O)(=O)C | C19H20FN5O4S2
